US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-(2-ethoxyethyl)thiopurine
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (134 mg, 0.49 mmol) was suspended in dimethylformamide (65 ml). To the suspension were added potassium carbonate (100 mg, 0.72 mmol) and 2-chloroethyl ethyl ether (0.056 ml, 0.73 mmol) in order. The mixture was stirred at room temperature for 3 hours. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (1% methanol/chloroform) to give the subject compound (19 mg, yield 11%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 0.49 mmol, 134 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethyl ethyl ether | 0.73 mmol, 0.056 ml | C(C)OCCCl | C4H9ClO
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 6-Amino-9-benzyl-8-hydroxy-2-(2-ethoxyethyl)thiopurine | 19 mg, yield 11% | NC1=C2N=C(N(C2=NC(=N1)SCCOCC)CC1=CC=CC=C1)O | C16H19N5O2S
